US07838517B2
Method L: 1-[1-(2-Chloro-phenyl)-ethyl]-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,2,3,4-tetrahydro-thieno[3,2-e][1,4]diazepin-5-one
HNiPr2 (246 μL, 1.74 mmol, 3.0 Eq) was dissolved in anhydrous THF (10 mL) and cooled to −78° C. under nitrogen. 2.5 M BuLi in hexanes (700 μL, 1.74 mmol, 3.0 Eq) was added dropwise and the reaction stirred at −78° C. for 15 minutes then warmed to 0° C. for 30 minutes. The reaction was cooled to −78° C. and 1-[1-(2-chloro-phenyl)-ethyl]-1,2,3,4-tetrahydro-thieno[3,2-e][1,4]diazepin-5-one (178 mg, 0.58 mmol, 1.0 Eq) was in anhydrous THF (5 mL) was added dropwise. The reaction was stirred at −78° C. for 2 hours. 2-Isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxa-borolane (355 μL, 1.74 mmol, 3.0 Eq) in anhydrous THF (5 mL) was added and the reaction stirred at −78° C. for 20 minutes them warmed to ambient temperature for 1.5 hours. 1M HCl (20 mL) was added and the mixture extracted with EtOAc (3×40 mL). The combined organic extracts were washed with brine (40 mL), dried (MgSO4) and concentrated in vacuo. The yellow oil obtained was used without further purification; 1H NMR (DMSO D6) 1.28 (12H, s), 1.51 (3H, d), 2.93-2.99 (1H, m), 3.03-3.13 (2H, m), 3.20-3.26 (1H, m), 5.32 (1H, dd), 6.19 (1H, br s), 7.20-7.28 (3H, m), 7.33-7.36 (2H, m); LC/MS M+1 (obs.) 433.4.

reactant | HNiPr2 | 1.74 mmol, 246 μL, 3.0 Eq | N(C(C)C)C(C)C | C6H15N
reactant | BuLi | 2.5 M | [Li]CCCC
reactant | 1-[1-(2-chloro-phenyl)-ethyl]-1,2,3,4-tetrahydro-thieno[3,2-e][1,4]diazepin-5-one | 0.58 mmol, 178 mg, 1.0 Eq | ClC1=C(C=CC=C1)C(C)N1CCNC(C2=C1C=CS2)=O | C15H15ClN2OS
reactant | 2-Isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxa-borolane | 1.74 mmol, 355 μL, 3.0 Eq | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
reactant | HCl | 1M, 20 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-[1-(2-Chloro-phenyl)-ethyl]-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,2,3,4-tetrahydro-thieno[3,2-e][1,4]diazepin-5-one | ClC1=C(C=CC=C1)C(C)N1CCNC(C2=C1C=C(S2)B2OC(C(O2)(C)C)(C)C)=O | C21H26BClN2O3S
